US05716936
A The process is performed as described in Example 1A, but starting with 3 g of (2RS,4SR,5RS)-1-{2-[3-(3-ethoxycarbonylphenyl)ureido]acetyl}-5-(2-fluorophenyl)-2-isobutylcarbamoyl-4-(4-methylphenyl)sulphonylpyrrolidine and 0.252 g of potassium hydroxide in a mixture of 80 cm3 of methanol and 20 cm3 of distilled water. After treatment, 0.18 g of (2RS,4SR,5RS)-3-(3-{2-[5-(2-fluorophenyl)-2-isobutylcarbamoyl-4-(4-methylphenyl)sulphonyl-1-pyrrolidinyl]-2-oxoethyl}ureido)benzoic acid is obtained [Rf=0.6; eluent: methylene chloride/methanol (90/10); 1H NMR spectrum (200 MHz, (CD3)2SO with addition of a few drops of CD3COOD, at a temperature of 393 K, δ in ppm): 0.96 (d, J=6.5 Hz, 6H: C(CH3)2); 1.85 (mt, 1H: CH); from 2.30 to 2.55 and 2.82 (2 mts, 1H each: CH2 at 3); 2.48 (s, 3H: CH3); 3.07 (mt, 2H: NCH2); from 3.60 to 3.80 and 3.88 (mt and d respectively, J=17 Hz), 1H each: COCH2N); 4.00 (mt, 1H: H4); 4.78 (t, J=7 Hz, 1H: H2); 5.71 (very broad s, 1H: H5); from 6.95 to 7.65 (mt, 6H: aromatic H); 7.49 (d, J=7.5 Hz, 2H: H of the aromatic at 4 (H ortho to the CH3)); 7.86 (d, J=7.5 Hz, 2H: H of the aromatic at 4 (H meta to the CH3)); 8.02 (mt, 1H: aromatic H (H2: ortho to the COOH)); 8.22 (broad t, J=8 Hz, 1H: H of the aromatic at 5 (H6))].

reactant | (2RS,4SR,5RS)-1-{2-[3-(3-ethoxycarbonylphenyl)ureido]acetyl}-5-(2-fluorophenyl)-2-isobutylcarbamoyl-4-(4-methylphenyl)sulphonylpyrrolidine | 3 g | C(C)OC(=O)C=1C=C(C=CC1)NC(NCC(=O)N1C(CC(C1C1=C(C=CC=C1)F)S(=O)(=O)C1=CC=C(C=C1)C)C(NCC(C)C)=O)=O | C34H39FN4O7S
reactant | potassium hydroxide | 0.252 g | [OH-].[K+]
solvent | methanol | 80 cm3 | CO | CH4O
solvent | water | 20 cm3 | O | H2O
product | (2RS,4SR,5RS)-3-(3-{2-[5-(2-fluorophenyl)-2-isobutylcarbamoyl-4-(4-methylphenyl)sulphonyl-1-pyrrolidinyl]-2-oxoethyl}ureido)benzoic acid | 0.18 g | FC1=C(C=CC=C1)C1C(CC(N1C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O)C(NCC(C)C)=O)S(=O)(=O)C1=CC=C(C=C1)C | C32H35FN4O7S
